US08629169B2
Di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate (4.11 g, 7.19 mmol) is weighed into a one liter round bottom with a stirring bar. Hydrogen chloride (4N in dioxane, 120 mL, 480.0 mmol) is added. The mixture is warmed to 70° C. for 2 hours and then allowed to cool to ambient temperature. The solvent is removed under reduced pressure to give a residue. The residue is dissolve in dichloromethane (200 mL) and the solvent is removed under reduced pressure to give a residue. This is repeated two more times to give (1S,2R,3S,4S,5R,6R)-2-amino-3-[(3,4-difluorophenyl)sulfanylmethyl]-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid hydrochloride. This material is taken up in tetrahydrofuran (100 mL) as a suspension. To this suspension is added triethylamine (40.08 mL, 287.57 mmol). The suspension is stirred for 10 minutes and then methanol (50 ml) is added. To the reaction is added di-t-butyldicarbonate (4.71 g, 21.57 mmol) and the mixture is heated to 80° C. for 2 hours. The mixture is allowed to come to ambient temperature and the solvent is removed under reduced pressure to give a residue. The residue is dissolved in acetonitrile (50 ml), transferred to a separatory funnel and washed with hexanes. The acetonitrile layer is separated and removed under reduced pressure to give a residue. The residue is suspended in diethyl ether, transferred to a separatory funnel, washed with 1 N aqueous HCl, dried over magnesium sulfate, filtered, and concentrated under reduced pressure giving the title compound (3 g, 6.53 mmol, 90.82% yield). MS (m/z): 457.8 (M−H).

reactant | Di-tert-butyl (1S,2R,3S,4S,5R,6R)-2-[(tert-butoxycarbonyl)amino]-3-{[(3,4-difluorophenyl)sulfanyl]methyl}-4-hydroxybicyclo[3.1.0]hexane-2,6-dicarboxylate | 7.19 mmol, 4.11 g | C(C)(C)(C)OC(=O)N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC(=C(C=C1)F)F)O)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C28H39F2NO7S
reactant | Hydrogen chloride | 480.0 mmol, 4N, 120 mL | Cl | ClH
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | (1S,2R,3S,4S,5R,6R)-2-amino-3-[(3,4-difluorophenyl)sulfanylmethyl]-4-hydroxy-bicyclo[3.1.0]hexane-2,6-dicarboxylic acid hydrochloride | Cl.N[C@@]1([C@@H]2[C@H]([C@@H]2[C@@H]([C@H]1CSC1=CC(=C(C=C1)F)F)O)C(=O)O)C(=O)O | InChI=1S/C15H15F2NO5S.ClH/c16-7-2-1-5(3-8(7)17)24-4-6-12(19)9-10(13(20)21)11(9)15(6,18)14(22)23;/h1-3,6,9-12,19H,4,18H2,(H,20,21)(H,22,23);1H/t6-,9+,10+,11+,12-,15+;/m1./s1
